US05807891
47d) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid
A solution of 1.354 g (2.685 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,3,4-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 43.36 ml of dimethoxyethane and 21.86 ml of water is treated, at RT, with 10.74 ml of a 1M solution of lithium hydroxide in water, and this reaction mixture is stirred for 2 h. It is then transferred to a separating funnel, diluted with 132 ml of sat. ammonium chloride solution and 11 ml of a 10% citric acid solution (both cold), and this mixture is then extracted with ethyl acetate and a little THF. The title compound, which is dried under HV and subjected to further processing without being purified, is obtained after washing the organic phase with (cold) saline and drying it over sodium sulfate. TLC Rf (C)=0.03. MS (M-H2O)+ =485.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,3,4-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 2.685 mmol, 1.354 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C(=C(C=C1)OC)OC)OC | C27H35NO7
reactant | lithium hydroxide | [OH-].[Li+]
solvent | dimethoxyethane | 43.36 ml | C(OC)COC | C4H10O2
solvent | water | 21.86 ml | O | H2O
solvent | ammonium chloride | 132 ml | [Cl-].[NH4+]
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)OC)OC)O)CC1=CC=CC=C1 | C27H37NO8
